US05578596
11.05 g (0.1 mol) of glycinamide hydrochloride was dissolved in 200 ml of methanol. To the resultant solution was added a solution of 13.44 g (0.12 mol) of cyclohexane-1,2-dione in 30 ml of methanol under cooling to -30° C. or lower and then, 20 ml of an aqueous 12.5 N NaOH solution was dropwise added thereto. Subsequently, the resultant mixture was stirred at -30° C. or lower for 30 minutes and further stirred at room temperature for 3 hours to effect a reaction. To the resultant reaction mixture was added 25 ml of concentrated hydrochloric acid, followed by stirring for 10 minutes and then, 15 g of sodium hydrogencarbonate was added thereto. The solvent of the reaction mixture was distilled off in vacuo to thereby obtain a residue. Water was added-to the obtained residue, followed by extraction with chloroform three times to obtain an extract. The extract was dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was recrystallized from acetone, to thereby obtain 9.36 g of 2-hydroxy-5,6,7,8-tetrahydroquinoxaline (yield: 62.4%).

reactant | glycinamide hydrochloride | 0.1 mol, 11.05 g | Cl.NCC(=O)N
reactant | cyclohexane-1,2-dione | 0.12 mol, 13.44 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | NaOH | 12.5 N | [OH-].[Na+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | sodium hydrogencarbonate | 15 g | C(O)([O-])=O.[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
solvent | Water | O | H2O
product | 2-hydroxy-5,6,7,8-tetrahydroquinoxaline | 9.36 g, yield: 62.4% | OC1=NC=2CCCCC2N=C1 | C8H10N2O
